US07419984B2
6-(5-Chloro-2-ethoxy-phenyl)-N*4*-(4-methoxy-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 53, 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine and 4-methoxy-phenylamine provided the title compound (61% yield). 1H NMR (DMSO-d6) δ 1.34 (t, 3H, J=6.9 Hz, CH3), 3.74 (s, 3H, CH3), 4.10 (q, 2H, J=7.0 Hz, CH2), 6.18 (s, 2H, NH2), 6.71 (s, 1H, Ar), 6.89 (d, 2H, J=8.6 Hz, Ar), 7.12 (d, 1H, J=8.9 Hz, Ar), 7.39 (dd, 1H, J=8.8 Hz, 2.9 Hz, Ar), 7.53 (d, 2H, J=8.6 Hz, Ar), 7.94 (d, 1H, J=2.8 Hz, Ar), 8.93 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N | C12H11Cl2N3O
reactant | 4-methoxy-phenylamine | COC1=CC=C(C=C1)N | C7H9NO
product | 6-(5-Chloro-2-ethoxy-phenyl)-N*4*-(4-methoxy-phenyl)-pyrimidine-2,4-diamine | 61% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)OC)OCC | C19H19ClN4O2
